US05001250
Preparation of Dihexyl N,N-diethylcarbamoylmethylphosphonate
Into a 2-liter, 3-necked, round bottom flask equipped with a mechanical stirrer, thermometer, 250 ml pressure-equalizing dropping funnel, and inert gas fittings was placed a solution of 149.5 g (1.OM) N,N-diethylchloroacetamide and 1.5 g "Adogen 464" in 400 ml CH2Cl2 and 200 ml 50% aqueous sodium hydroxide. The solution was stirred at 200 rpm and cooled to 5°-1020 C. in an ice bath. Dihexylphosphite 250 g (1.09M) diluted with 100 ml CH2Cl2 was added dropwise from the dropping funnel. This addition took about 1 hour. An analytical sample was taken by syringe every hour, and the progress of the reaction was monitored by GC analysis to determine the disappearance of the starting materials and formation of the product. The reaction was allowed to stir another two hours after the addition of dihexylphosphite. The reaction mixture was transferred to a separatory funnel, and 200 ml of distilled water was added to facilitate the separation of the phases. The top organic layer was removed and dried over anhydrous Na2CO3. The filtered organic layer was stripped of the solvent using water suction and a bath temperature of 75° -80° C. to give a light yellow oil weighing 338.9 gms (93% yield). The product was purified by distillation under vacuum, and the fraction boiling at 155° -156° C./0.1MM Hg was collected. The GC purity of this cut was 94.2%.

reactant | N,N-diethylchloroacetamide | 149.5 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | Dihexylphosphite | 1.09M, 250 g | C(CCCCC)OP(OCCCCCC)[O-]
reactant | water | 200 ml | O | H2O
catalyst | Adogen 464 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Dihexyl N,N-diethylcarbamoylmethylphosphonate | 93% yield | C(C)N(C(=O)CP(OCCCCCC)(OCCCCCC)=O)CC | C18H38NO4P
